US09315458B2
A) 3-fluoro-2-hydroxy-4-methylbenzoic acid
To an aqueous solution (50.0 mL) of sodium chlorite (22.2 g) was added a mixture of 3-fluoro-2-hydroxy-4-methylbenzaldehyde (9.47 g), sodium dihydrogenphosphate (33.2 g) and 2-methyl-2-butene (32.5 mL) in tert-butanol (200 mL)-water (100 mL) under ice-cooling, and the mixture was stirred at the same temperature for 3 hr. The pH of the reaction mixture was adjusted to 2-3 with 2N hydrochloric acid. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (10.5 g) as a crude product. This compound was used in the next step without an additional purification.

reactant | sodium chlorite | 50.0 mL, 22.2 g | Cl(=O)[O-].[Na+]
reactant | 3-fluoro-2-hydroxy-4-methylbenzaldehyde | 9.47 g | FC=1C(=C(C=O)C=CC1C)O | C8H7FO2
reactant | sodium dihydrogenphosphate | 33.2 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 32.5 mL | CC(C)=CC | C5H10
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tert-butanol | 200 mL | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
product | 3-fluoro-2-hydroxy-4-methylbenzoic acid | 10.5 g | FC=1C(=C(C(=O)O)C=CC1C)O | C8H7FO3
